Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___
 
___ Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
Bronchoscopy with stent of right bronchus intermedius and 
tracheobronchial wash ___

 
History of Present Illness:
___ with a PMH of breast CA s/p mastectomy in ___-
recurrence in ___ s/p right axillary lymph node dissection, on
arimidex- recently found to have mediastinal lymphadenopathy on
dyspnea work up by PCP so she was sent to interventional pulm 
for
EBUS on ___.  

___: EBUS showed: mucosal abnormalities in the distal trachea,
RMS, TI, and LMS. Marked extrinsic compression of the bronchus
intermidius with some RMS and LMS compression.  Multiple 
enlarged
lymph nodes which were biopsied. 

___: presented to the ED with cough and shortness of breath
since the procedure the day prior. The SOB was severe, it was
worsening, it was associated with cough. The severe SOB was 
going
on for 1 day. Another chest CT was done which showed significant
narrowing/occlusion of the right main stem and bronchus
intermidius. She was taken on ___ for bronchoscopy and a stent
was deployed in the BI, patency restored. 

The biopsy on ___ has resulted in adenocarcinoma (primary site
pending, ? breast vs. lung)."
 
Past Medical History:
Breast cancer, S/P mastectomy ___, recurrence in ___ S/P right 
axillary lymph node dissection, currently on Arimidex
 
Social History:
___
Family History:
A paternal aunt had breast cancer at age ___. 
Her father had prostate cancer at age ___.  Her paternal
grandfather had colon cancer at age ___.  A maternal uncle had
colon cancer in his ___.
 
Physical Exam:
ON ADMISSION:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: diffuse rhonchi.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
=====================
ON DISCHARGE:
VITALS: 24 HR Data (last updated ___ @ 1313)
    Temp: 98.6 (Tm 99.5), BP: 121/76 (108-131/64-78), HR: 86 
(81-90), RR: 20 (___), O2 sat: 96% (95-96%-96), O2 delivery: 
RA, Wt: 128 lb/58.06 kg
GENERAL: Alert and in no apparent distress, appears comfortable, 
conversant
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma.  
Oropharynx without visible lesion, erythema or exudate. Moist 
mucus membranes.
CV: RRR, no murmurs/rubs, no S3, no S4. 2+ radial pulses 
bilaterally.
RESP: Lungs with coarse breath sounds throughout, but no 
distinct wheezes or crackles.  Breathing is non-labored on room 
air.
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  
GU: No GU catheter present
MSK: Moves all extremities, no edema or swelling
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented x3, face symmetric, speech fluent, moves 
all limbs
PSYCH: Pleasant, appropriate affect, calm, cooperative

 
Pertinent Results:
ON ADMISSION:
___ 10:30AM BLOOD WBC-11.1* RBC-4.75 Hgb-13.3 Hct-41.1 
MCV-87 MCH-28.0 MCHC-32.4 RDW-12.5 RDWSD-39.6 Plt ___
___ 10:30AM BLOOD Neuts-74.9* Lymphs-16.2* Monos-5.7 
Eos-2.0 Baso-0.9 Im ___ AbsNeut-8.28* AbsLymp-1.79 
AbsMono-0.63 AbsEos-0.22 AbsBaso-0.10*
___ 11:37AM BLOOD ___ PTT-32.0 ___
___ 10:30AM BLOOD Glucose-80 UreaN-10 Creat-0.7 Na-142 
K-4.3 Cl-107 HCO3-22 AnGap-13
___ 10:30AM BLOOD cTropnT-<0.01
___ 10:30AM BLOOD Calcium-9.6 Phos-3.2 Mg-2.0
___ 02:20PM BLOOD Lactate-1.5
===============
ON DISCHARGE:
___ 05:16AM BLOOD WBC-9.1 RBC-4.48 Hgb-12.3 Hct-38.0 MCV-85 
MCH-27.5 MCHC-32.4 RDW-12.1 RDWSD-37.4 Plt ___
___ 05:16AM BLOOD Glucose-94 UreaN-8 Creat-0.7 Na-141 K-4.5 
Cl-103 HCO3-25 AnGap-13
===============
MICROBIOLOGY:
Blood cultures x2 from ___: PENDING
Bronchial washing culture ___: 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
   RESPIRATORY CULTURE (Preliminary): 
   ACID FAST SMEAR (Preliminary): 
   ACID FAST CULTURE (Preliminary): 
   FUNGAL CULTURE (Preliminary): 
   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 
===============
CXR ___:
No focal consolidation to suggest pneumonia.  Unchanged 
mediastinal 
lymphadenopathy. 

CTA CHEST WITH CONTRAST ___:
1. No evidence for pulmonary embolism or acute thoracic aorta 
pathology. 
2. New ground-glass opacity of the right upper lobe may be due 
to infection versus aspiration, however hemorrhage cannot be 
excluded considering recent biopsy. 
3. New intraluminal obstructing material within the right 
mainstem bronchus with extension to the right upper lobe 
bronchus and intermediate bronchus suggestive of mucus plugging. 

4. Re-demonstrated right hilar and mediastinal lymphadenopathy, 
some of which is necrotic, with encasement and narrowing of the 
right mainstem bronchus by the lymphadenopathy. 
5. Post radiation changes within the right apex and anterior 
right upper lobe. 

CXR ___:
Interval placement of a stent in the right mainstem bronchus. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo lady with history of breast cancer s/p 
mastectomy in ___ with recurrent in ___ with right axillary 
node dissection on Arimidex who was found to have new 
mediastinal lymphadenopathy by her PCP after presenting for 
dyspnea.  She had EBUS with nodal biopsies on ___ and 
presented to ED on ___ with increasing dyspnea.  She was not 
hypoxic, but was found to have narrowing/occlusion of the right 
main stem and bronchus intermedius on CTA chest, so she 
underwent bronchoscopy with stent placement on ___.  Her 
node biopsies from ___ are consistent with metastatic 
adenocarcinoma of breast origin.

#Mediastinal lymphadenopathy with compression of right bronchus 
intermedius s/p airway stenting
#Shortness of Breath: She had CT done by PCP ___ ___ for 
shortness of breath and was found to have mediastinal 
lymphadenopathy (some of which is necrotic) with compression of 
right mainstem bronchus and bronchus intermedius.  She had ___ 
EBUS with biopsies and these showed metastatic breast 
adenocarcinoma. She re-presented
on ___ with SOB and found to have compression of right bronchus 
intermedius.  She underwent bronchoscopy with stent with 
restored patency. She will follow up with Dr. ___ on ___ 
in ___.  IP recommended:
-Mucomyst (N-Acetylcysteine) (100 mg/mL, 10 %) solution, 4 ml 
nebulized BID 
-Albuterol Sulfate 2.5 mg/3 mL (0.083 %) solution for 
nebulization BID x 10 days
-Nebulizer Machine
-Guafenesin (Mucinex®) 1200mg BID 
-Flutter valve (Acapella) BID and PRN congestion

#Metastatic breast adenocarcinoma: Mediastinal node biopsies 
showed breast origin.  She will follow up with her primary 
oncologist Dr. ___ - I have emailed to ask for her to have 
follow up scheduled early this week.  I discussed the results 
with the patient and her daughter.

#Question of pneumonia: ___ was 11 on admission with GGO in RUL 
(?aspiration vs. infection), so she was empirically started on 
vancomycin/cefepime/flagyl on ___.  She has no evidence of 
pneumonia on CTA chest and had no fever and leukocytosis 
resolved.  Discussed with IP who did not recommend continuing 
antibiotics, which I agree with based on CT and clinical 
presentation.

#Insomnia: She has been on Mirtazapine in the past, without 
improvement in insomnia and requested short course of another 
medication to help with sleeping especially in acute setting of 
new cancer diagnosis.  I prescribed short course of Trazodone.
 
TRANSITIONAL ISSUES:
- Follow up pending blood cultures from ___, 
tracheobronchial wash cultures from ___
- Follow up pending pathology from ___ (immunophenotyping) and 
___ biopsy
- Follow up with Dr. ___ on ___
- Follow up with Dr. ___

============================
Ms. ___ is clinically stable for discharge today. The total 
time spent today on discharge planning, counseling and 
coordination of care was greater than 30 minutes.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mirtazapine 15 mg PO QHS 
2. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
3. Anastrozole 1 mg PO DAILY 

 
Discharge Medications:
1.  Acetylcysteine 20% ___ mL NEB BID 
RX *acetylcysteine 100 mg/mL (10 %) 4 mL twice a day Disp #*100 
Milliliter Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH BID 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb twice a day 
Disp ___ Milliliter Refills:*0 
3.  GuaiFENesin ER 1200 mg PO Q12H 
RX *guaifenesin [Mucinex] 1,200 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*28 Tablet Refills:*0 
4.  nebulizers 1 machine miscellaneous BID 
1 nebulizer machine 
RX *nebulizers  1 nebulizer machine twice a day Disp #*1 Each 
Refills:*0 
5.  TraZODone 25 mg PO QHS:PRN Insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*7 Tablet Refills:*0 
6.  Anastrozole 1 mg PO DAILY  
7.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line  

8.  Mirtazapine 15 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Dyspnea
Mediastinal lymphadenopathy with compression of right bronchus 
intermedius
Metastatic breast adenocarcinoma
History of breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with shortness of breath.  You had a 
bronchoscopy with stent placement to relive compression of your 
airway.  You are being prescribed a nebulizer machine and will 
have new medications to be used with the nebulizer.  You were on 
antibiotics, but per discussion with the pulmonologist (lung 
specialist), you do not need to continue antibiotics at this 
time.

Please follow up with Dr. ___ as scheduled on ___.  I'll 
also contact your oncologist to make sure his office contacts 
you for follow up.
 
Followup Instructions:
___